US06894061B2
3,8-Difluoro-5-[(3-methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridin
A stirred suspension of 3-methoxy-N-[1-(2′,4,4′-trifluoro-1,1′-biphenyl-2-yl)ethyl]benzenesulfonamide (0.88 g, 2.1 mmol) and potassium carbonate (0.58 g, 4.2 mmol) in N,N-dimethylformamide (5 mL) was heated for twelve hours at 100° C. The reaction mixture was cooled and poured into distilled water. After stirring overnight at room temperature, a precipitate was filtered and dried under high vacuum. The title compound (0.81 g, 2.0 mmol, 96%) was obtained as a colorless, fine, crystalline powder, m.p. 147-149° C.;

reactant | 3-methoxy-N-[1-(2′,4,4′-trifluoro-1,1′-biphenyl-2-yl)ethyl]benzenesulfonamide | 2.1 mmol, 0.88 g | COC=1C=C(C=CC1)S(=O)(=O)NC(C)C1=C(C=CC(=C1)F)C1=C(C=C(C=C1)F)F | C21H18F3NO3S
reactant | potassium carbonate | 4.2 mmol, 0.58 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 3,8-Difluoro-5-[(3-methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridin | 2.0 mmol, 0.81 g, 96% | FC=1C=CC=2C3=CC=C(C=C3C(N(C2C1)S(=O)(=O)C1=CC(=CC=C1)OC)C)F | C21H17F2NO3S
